US05872115
Step 1): In a similar manner to that of Preparation 1, but replacing isonipecotamide and 1-diphenylmethylpiperidine-4-carboxamide with ethyl isonipecotate and ethyl 1-diphenylmethyl-4-piperidinecarboxylate respectively, 1-diphenylmethyl-4-hydroxymethylpiperidine was prepared.

reactant | 1-diphenylmethylpiperidine-4-carboxamide | C1(=CC=CC=C1)C(N1CCC(CC1)C(=O)N)C1=CC=CC=C1 | C19H22N2O
reactant | ethyl isonipecotate | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | ethyl 1-diphenylmethyl-4-piperidinecarboxylate | C1(=CC=CC=C1)C(N1CCC(CC1)C(=O)OCC)C1=CC=CC=C1 | C21H25NO2
product | 1-diphenylmethyl-4-hydroxymethylpiperidine | C1(=CC=CC=C1)C(N1CCC(CC1)CO)C1=CC=CC=C1 | C19H23NO
